US07696200B2
A solution of 4-(5-chloro-2-methoxy-benzenesulfonyl)-3,4-dihydro-2H-benzo[1,4]oxazine-6-carboxylic acid methyl ester (7.1 g, 17.8 mmol) in tetrahydrofuran (100 mL) and methanol (50 mL) was treated with 3N NaOH (25 mL, 75 mmol, 4.2 equiv.). The mixture was stirred at 45° C. for 1.5 hours. The organic solvents were then removed and the residue acidified with HCl 3N (25 mL). The white precipitate which formed was filtered, washing with water, and dried under high vacuum. 4-(5-Chloro-2-methoxy-benzenesulfonyl)-3,4-dihydro-2H-benzo[1,4]oxazine-6-carboxylic acid was obtained as a white solid, 6.79 g (99%), MS (ISP): m/e=382.0 (M−H), which was used crude in the following reaction.

reactant | 4-(5-chloro-2-methoxy-benzenesulfonyl)-3,4-dihydro-2H-benzo[1,4]oxazine-6-carboxylic acid methyl ester | 17.8 mmol, 7.1 g | COC(=O)C=1C=CC2=C(N(CCO2)S(=O)(=O)C2=C(C=CC(=C2)Cl)OC)C1 | C17H16ClNO6S
reactant | NaOH | 75 mmol, 3N, 25 mL, 4.2 equiv. | [OH-].[Na+]
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | methanol | 50 mL | CO | CH4O
product | 4-(5-Chloro-2-methoxy-benzenesulfonyl)-3,4-dihydro-2H-benzo[1,4]oxazine-6-carboxylic acid | ClC=1C=CC(=C(C1)S(=O)(=O)N1CCOC2=C1C=C(C=C2)C(=O)O)OC | C16H14ClNO6S
